US08283354B2
2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol (126.8 mg, 0.364 mmol) was dissolved in 5 mL anhydrous DMF and cooled to 0° C., and a solution of (S)-tetrahydrofuran-3-yl chloroformate (65.4 mg, 0.436 mmol) in 200 □1 of DMF was added dropwise followed by the addition of triethylamine (74 mg, 0.102 mL, 0.728 mmol). The reaction was allowed to warm to room temperature and was complete after two hours. The mixture was partitioned between H2O and CH2Cl2, separated, and the aqueous layer was extracted twice with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered, and concentrated to a yellow solid. Purification via silica gel chromatography using 98% CH2Cl2/2% MeOH gave (S)-tetrahydrofuran-3-yl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate as an off white solid (116 mg, 69%). LC/MS: m/z 463.5 (M+H)+ at 2.37 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.364 mmol, 126.8 mg | NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C21H24N4O
reactant | (S)-tetrahydrofuran-3-yl chloroformate | 0.436 mmol, 65.4 mg | ClC(=O)O[C@@H]1COCC1 | C5H7ClO3
reactant | triethylamine | 0.728 mmol, 0.102 mL, 74 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-tetrahydrofuran-3-yl ((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CCC1)CNC(O[C@@H]1COCC1)=O)C | C26H30N4O4
